************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: XOR3X1
* View Name:     schematic
* Netlisted on:  Jun  4 07:52:44 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    XOR3X1
* View Name:    schematic
************************************************************************

.SUBCKT XOR3X1 A B C VDD VSS Y
*.PININFO A:I B:I C:I VDD:I VSS:I Y:O
Mmn3 n56 n60 n50 VSS g45n1svt m=1 l=45n w=190n
Mmn10 n62 A VSS VSS g45n1svt m=1 l=45n w=205n
Mmn4 n44 C n50 VSS g45n1svt m=1 l=45n w=190n
Mmn8 n60 C VSS VSS g45n1svt m=1 l=45n w=190n
Mmn9 n61 B VSS VSS g45n1svt m=1 l=45n w=190n
Mmn6 n56 B n11 VSS g45n1svt m=1 l=45n w=190n
Mmn1 n62 B n44 VSS g45n1svt m=1 l=45n w=205n
Mmn2 n11 n61 n44 VSS g45n1svt m=1 l=45n w=190n
Mmn0 n11 n62 VSS VSS g45n1svt m=1 l=45n w=190n
Mmn5 n62 n61 n56 VSS g45n1svt m=1 l=45n w=205n
Mmn7 Y n50 VSS VSS g45n1svt m=1 l=45n w=205n
Mmp10 n62 A VDD VDD g45p1svt m=1 l=45n w=390n
Mmp1 n44 n61 n62 VDD g45p1svt m=1 l=45n w=390n
Mmp7 Y n50 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp2 n44 B n11 VDD g45p1svt m=1 l=45n w=310n
Mmp9 n61 B VDD VDD g45p1svt m=1 l=45n w=310n
Mmp3 n50 C n56 VDD g45p1svt m=1 l=45n w=310n
Mmp8 n60 C VDD VDD g45p1svt m=1 l=45n w=310n
Mmp4 n50 n60 n44 VDD g45p1svt m=1 l=45n w=310n
Mmp0 n11 n62 VDD VDD g45p1svt m=1 l=45n w=310n
Mmp6 n11 n61 n56 VDD g45p1svt m=1 l=45n w=310n
Mmp5 n56 B n62 VDD g45p1svt m=1 l=45n w=390n
.ENDS

